US08207164B2
b) 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-morpholin-3-one
A solution of N-[1-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-propionamide first eluting diastereomer (442 mg, 1.180 mmol) in 4.4 mL acetonitrile was treated with potassium hydroxide (86 mg, 1.298 mmol) and stirred over night. Additional potassium hydroxide (26 mg, 0.472 mmol) was added and the reaction mixture was stirred for another night. Eventually, the reaction mixture was partitioned between 1N HCl and EtOAc. The layers were separated, washed with brine and EtOAc. The combined organic layers were dried over MgSO4.H2O and evaporated. The crude product was crystallized from TBME to give 251 mg of the title compound as white crystals.

reactant | N-[1-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-propionamide | BrC=1C=CC(=C(C1)C(C(F)F)(CO)NC(C(C)Cl)=O)F | C12H12BrClF3NO2
reactant | potassium hydroxide | 1.298 mmol, 86 mg | [OH-].[K+]
reactant | potassium hydroxide | 0.472 mmol, 26 mg | [OH-].[K+]
solvent | acetonitrile | 4.4 mL | C(C)#N | C2H3N
product | 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-morpholin-3-one | 251 mg | BrC=1C=CC(=C(C1)C1(COC(C(N1)=O)C)C(F)F)F | C12H11BrF3NO2
